US07544812B2
2-Isopropoxy-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester
3-(4-Hydroxy-phenyl)-2-isopropoxy-propionic acid methyl ester (1.7 g, 7.3 mmol), Toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester (3.4 g, 8.0 mmol), and Cs2CO3 (3.6 g, 11 mmol) were combined in 10 mL of DMF and heated at 55° C. for 18 h. After cooling, the mixture is diluted with 100 mL of water and extracted with 3×20 mL of ethyl acetate. The organics were dried, concentrated, and the residue is purified by flash chromatography using 7/3 ethyl actate/hexanes to give 3.0 g (86%) of the title compound as an oil. NMR

reactant | 3-(4-Hydroxy-phenyl)-2-isopropoxy-propionic acid methyl ester | 7.3 mmol, 1.7 g | COC(C(CC1=CC=C(C=C1)O)OC(C)C)=O | C13H18O4
reactant | Toluene-4-sulfonic acid 2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethyl ester | 8.0 mmol, 3.4 g | COC1=CC=C(CN2C(N(C(C2)CCOS(=O)(=O)C2=CC=C(C=C2)C)C)=O)C=C1 | C21H26N2O5S
reactant | Cs2CO3 | 11 mmol, 3.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-Isopropoxy-3-(4-{2-[1-(4-methoxy-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester | 3.0 g, 86% | COC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)OC)=O)C)OC(C)C)=O | C27H36N2O6
